US06531502B1
A mixture of 5-formyl-4-(2-ethoxycarbonylethyl)-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester (281 mg), 4-methyl-2-oxindole (147 mg) and piperidine (2 drops) in ethanol (2 mL) was stirred at 90° C. for 2 hours. Potassium hydroxide (213 mg) was added, the temperature was increased to 95° C. and held there for 1 hour. The reaction mixture was cooled and concentrated. The residue was dissolved into water and acidified with 2 N hydrochloric acid to pH 2. The precipitate was filtered, washed with water and dried in a vacuum oven overnight to give 337 mg (95%) of 4-(2-carboxyethyl)-3-methyl-5-(4-methyl-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic acid.

reactant | 5-formyl-4-(2-ethoxycarbonylethyl)-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 281 mg | C(C)OC(=O)C=1NC(=C(C1C)CCC(=O)OCC)C=O | C14H19NO5
reactant | 4-methyl-2-oxindole | 147 mg | CC1=C2CC(NC2=CC=C1)=O | C9H9NO
reactant | Potassium hydroxide | 213 mg | [OH-].[K+]
catalyst | piperidine | 2 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 4-(2-carboxyethyl)-3-methyl-5-(4-methyl-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic acid | 337 mg, 95% | C(=O)(O)CCC=1C(=C(NC1C=C1C(NC2=CC=CC(=C12)C)=O)C(=O)O)C | C19H18N2O5
